US06194406B1
Combine methyl 2-methoxy-5-methylthiobenzoate (3.0 g, 14.1 mmol), pyridine (10 mL) and water (10 mL). Cool in an ice bath. Add portionwise phenyltrimethylammonium tribromide (5.84 g, 15.5 mmol). After 30 minutes, warm to ambient temperature. After 3 hour, add a solution of sodium bisulfite (1.6 g) in water (4 mL). After 10 minutes, add a 12 M aqueous hydrochloric acid solution (11 mL) and water. Extract the reaction mixture four times with dichloromethane. Combine the organic layers, extract with brine, dry over Na2SO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting with ethyl acetate to give methyl 2-methoxy-5-methylsulfinylbenzoate: mp; 64-66° C. Elemental Analysis calculated for C9H12O4S: C, 52.62; H, 5.30. Found: C, 52.51; H, 5.37.

reactant | methyl 2-methoxy-5-methylthiobenzoate | 14.1 mmol, 3.0 g | COC1=C(C(=S)OC)C=C(C=C1)C | C10H12O2S
reactant | phenyltrimethylammonium tribromide | 15.5 mmol, 5.84 g | [Br-].[Br-].[Br-].C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C
reactant | sodium bisulfite | 1.6 g | S([O-])(O)=O.[Na+]
reactant | hydrochloric acid | 12 M, 11 mL | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 4 mL | O | H2O
solvent | water | 10 mL | O | H2O
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | methyl 2-methoxy-5-methylsulfinylbenzoate | COC1=C(C(=O)OC)C=C(C=C1)S(=O)C | C10H12O4S
